US03978127
B. 2'-Bromo-4'-fluoro-2-phenylacetophenone
A solution of 2-bromo-4-fluorobenzonitrile, 6.0 g. (0.03 mole) in 35 ml. of absolute ether is added dropwise to a stirred solution of benzylmagnesium chloride prepared from 2.9 g. (0.12 g. atom) of magnesium turnings and 15.2 g. (0.12 mole) of benzyl chloride in 65 ml. of absolute ether in a nitrogen atmosphere. The mixture is stirred at room temperature for about 18 hours. After cooling in an ice-bath, the adduct is hydrolyzed by the dropwise addition of 100 ml. of 0.5 M. citric acid. The organic phase is separated and the aqueous phase reextracted with several portions of benzene. The combined organic layers are extracted with 45 ml. of ice-cold 6 N hydrochloric acid inn several portions and the combined acid extracts are heated on the steam bath for 45 minutes. The product separates as an oil and is extracted into benzene. Evaporation of the washed and dried benzene extract leaves the yellow oily product that is purified by distillation; b.p. 112°-115°C./ 0.05 mm.

reactant | 2-bromo-4-fluorobenzonitrile | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | magnesium | 0.12 g | [Mg] | Mg
reactant | benzyl chloride | 0.12 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ether | CCOCC | C4H10O
product | 2'-Bromo-4'-fluoro-2-phenylacetophenone | BrC1=C(C=CC(=C1)F)C(CC1=CC=CC=C1)=O | C14H10BrFO
